US05928999
4-Chloro-3-(4-chloro-3-nitrophenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole (No. Ia.059)
113.4 g (0.387 mol) of 4-chloro-3-(4-chlorophenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole were added a little at a time at -40° C. to 500 ml of 98% strength nitric acid. The mixture was stirred at this temperature for 2 hours and then the solution was stirred into ice. The product was extracted from the aqueous phase with dichloromethane. The dichloromethane phase was subsequently washed a number of times with water and then with saturated sodium chloride solution. Drying over magnesium sulfate and removal of the dichloromethane gave 119.6 g of the target product.

reactant | 4-chloro-3-(4-chlorophenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole | 0.387 mol, 113.4 g | ClC=1C(=NN(C1OC(F)F)C)C1=CC=C(C=C1)Cl | C11H8Cl2F2N2O
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 4-Chloro-3-(4-chloro-3-nitrophenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole | 119.6 g | ClC=1C(=NN(C1OC(F)F)C)C1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C11H7Cl2F2N3O3
